US05196502
Preparation of 5-Acetoxyisophthalic Acid
5-hydroxyisophthalic acid (45.5 grams, 0.25 mole) was heated in acetic acid anhydride (102 grams, 1 mole) to reflux for one-half hour until dissolved. Refluxing was continued for a total time of 5 hours. Excess acetic acid anhydride was removed in vacuum and white product was recrystallized twice from a chloroform/toluene (50/50 weight/weight) mixture. Yield was 48 grams, which was 86% of theoretical yield. A melting point was determined, as in all of the preparations and examples using a Thomas-Hoover melting point apparatus, which indicated onset of decomposition, and apparent release of acetic acid, at a temperature of about 235° C. Nuclear magnetic resonance (NMR) performed on a 300 MHz GE instrument using deuterated dimethylsulfoxide (DMSO-d6) gave the following peaks (in parts per million (ppm)): 2.25 (s,3H), 7.8 (s,2H), 8.3 (s,1H),13.4 (broad, 2H, COOH).

reactant | 5-hydroxyisophthalic acid | 0.25 mole, 45.5 grams | OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H6O5
reactant | acetic acid anhydride | 1 mole, 102 grams | C(C)(=O)OC(C)=O | C4H6O3
product | 5-Acetoxyisophthalic Acid | C(C)(=O)OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C10H8O6
